US09422279B2
Into a 50-mL round-bottom flask, was placed a solution of [2-(4-methoxyphenyl)pyridin-3-yl]methanol (1 g, 4.65 mmol, 1.00 equiv) in thionyl chloride (20 mL). The resulting solution was stirred for 2 h at reflux. The resulting mixture was concentrated under vacuum to yield 600 mg (55%) of 3-(chloromethyl)-2-(4-methoxyphenyl)pyridine as a white solid.

reactant | [2-(4-methoxyphenyl)pyridin-3-yl]methanol | 4.65 mmol, 1 g, 1.00 equiv | COC1=CC=C(C=C1)C1=NC=CC=C1CO | C13H13NO2
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-2-(4-methoxyphenyl)pyridine | 600 mg, 55% | ClCC=1C(=NC=CC1)C1=CC=C(C=C1)OC | C13H12ClNO
